US07135475B2
A solution of 1-methyl-4-(trityl-amino)-1H-pyrazole-3-carboxylic acid methyl ester (70 mg, 0.18 mmol) in methanol (2.0 mL) cooled to 0° C. was treated with a 1N aqueous sodium hydroxide solution (0.7 mL, 0.70 mmol). The reaction was stirred at 25° C. for 18 h. At this time, the reaction was treated with another portion of a 1N aqueous sodium hydroxide solution (0.7 mL, 0.70 mmol). The reaction was stirred for 24 h. At this time, the reaction was warmed to 50° C. for 5 days. At this time, the reaction was concentrated in vacuo. The residue was dissolved into dichloromethane and methanol and then brought to pH=4 by the addition of a 1N aqueous hydrochloric acid solution. The resulting mixture was concentrated in vacuo. The solids were slurried in cold water, collected by filtration, washed with water, and dried in vacuo to afford 1-methyl-4-(trityl-amino)-1H-pyrazole-3-carboxylic acid (60 mg, 88.9%) as an off-white solid: EI-HRMS m/e calcd for C24H21N3O2 (M+Na)+ 406.1526, found 406.1526.

reactant | 1-methyl-4-(trityl-amino)-1H-pyrazole-3-carboxylic acid methyl ester | 0.18 mmol, 70 mg | COC(=O)C1=NN(C=C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | C25H23N3O2
reactant | sodium hydroxide | 0.70 mmol, 1N, 0.7 mL | [OH-].[Na+]
reactant | sodium hydroxide | 0.70 mmol, 1N, 0.7 mL | [OH-].[Na+]
solvent | methanol | 2.0 mL | CO | CH4O
product | 1-methyl-4-(trityl-amino)-1H-pyrazole-3-carboxylic acid | 60 mg, 88.9% | CN1N=C(C(=C1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)O | C24H21N3O2
